Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Adhesive Tape
 
Attending: ___
 
___ Complaint:
___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with HCV cirrhosis s/p liver transplant 
(___) with recurrent hep C complicated by 
ascites/encephalopathy/varices (3 cords of grade I)/portal 
hypertensive gastropathy/chronic portal and splenic venous 
thrombosis, who was recently discharged from ___ on ___ after 
work-up of melena. He was at rehab until ___ when he was 
discharged home. He has been in his USOH until this morning when 
he noticed two dark stools, so his sister brought him to the ED. 
He reports being occasionally lightheaded but denies any fevers, 
chills, CP, SOB, cough, nausea or vomiting.  
.
During his previous hospitalization he had the following 
studies:
___: GI Bleeding study
___: Sigmoidoscopy
___: GI Bleeding study
___: Colonoscopy and EGD
___: Angiogram, no intervention
___: Exploratory laparotomy, intraoperative endoscopy.
___: Post pyloric feeding tube placement
.
A RBC scan showed no definite bleeding seen on 90 minute dynamic 
imaging, but activity in the rectum on left lateral that was 
compatible with rectal bleeding. Sigmoidoscopy: blood coating 
the colon, but no e/o active bleeding. ___ declined angiography 
at that time, as it would be very low yield as no bleeding was 
noted on the RBC scan. Over the pt's ICU course, he was 
transfused 5 units pRBCs. On the floor the patient remained 
hemodynamically stable however he continued to experience 
melanotic stools with a downward trend in his hematocrit. He 
became transfusion dependent, requiring about 2 units/day. He 
subsequently had a CT-A to looked for vascular abnormalities 
that was unremarkable. Repeat tagged red blood cell study was 
repeated which showed no source of bleeding. The patient 
continued to have melena, requiring ___ units of PRBCs to 
maintain adequate hematocrit. Exploratory laporotomy was 
performed on ___. A bleeding source was not identified during 
the surgery. Post-op he received an additional 4units PRBCs. 
Nutrition recommended a post-pyloric feeding tube and started 
tube feeds. His post op wound was draining ascitic fluid, so a 
VAC was placed. His hospital course was complicated by 
confusion, for which neurology was consulted. Please see 
discharge summary for details.  
.  
In the ED, initial vitals were: 97.2, 60, 100/56, 20. He has had 
several more dark stools which are guiac positive. His Hct was 
30.7, down from 34.9 two days ago. The patient was type & 
crossed, and received 40mg IV pantoprazole and 2L NS. Vitals 
prior to transfer: 65, 107/57, 17, 99% on RA.   
.  
On the floor the patient is comfortable with stable vitals.    
.  
ROS: 
(+) per HPI
(-) Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
dysuria, hematuria, myalgias, joint pains.  
 
Past Medical History:
PMH:  
- Hepatitis C s/p liver Tx ___, s/p revision ___ 
complicated with rejection and steroid use since ___ to 
present; also complicated with Hep C recurrence and restarted 
peg interferon ___. Hep C possibly contracted from tattoo 
___  
- Chronic pancreatitis  
- History of peripancreatic abscess ___
- Diabetes: steroid induced, managed at ___, recent 
HBA1C 5.1%  
- ITP  
- SVT last episode approximately ___, medically managed at this 
time (atenolol) 
- Secondary hyperparathyroidism due to CKD managed by Dr. ___ 
at ___
- Depression/anxiety   
- Primary hypogonadism  
- Thoracic compression fractures (___)  
- H/o post hypoxic encephalopathy (___)  
- Neutropenia and infections including c. diff x3, streptococcal 
septicemia, anal fistula s/p ___    
- Left sided hydronephrosis due to obstruction from 
splenomegaly, s/p left ureteral stent placement (___)      
- Chronic pain especially rectal pain 
.  
PSH:
- Cholecystectomy
- Appendectomy 
- Splenectomy, distal pancreatectomy, c/w fistula, s/p stent and 

then removal ___ 
- Bilateral inguinal hernia s/p hernia repair which has failed  
- Umbilical hernia repair (___)
- Tonsillectomy 
 
Social History:
___
Family History:
Mother has DM2 and HTN. Uncle with cancer in his ___ (unknown 
site). Denies any family history of MI, sudden cardiac death, 
stroke and lung diseases has DM2.  
 
Physical Exam:
ADMISSION:
Vitals: 65, 107/57, 17, 99% on RA
General: Pleasant, thin man in NAD   
Skin: No rashes, no spider angiomas, no palmar erythema
HEENT: NC/AT, EOMI, sclera anicteric, pale conjunctiva, MMM  
Neck: Supple, nml ROM, no JVD, no LAD
Cardiac: RRR, nml S1/S2, no M/R/G  
Lungs: CTAB, no wheezes or crackles  
Abdomen: Soft, NT, ND, well-healed surgical incisions  
Extremities: WWP, 2+ radial/DP pulses, no edema  
Neuro: A&Ox3, CN II-XII intact, motor and sensory function 
grossly intact, no asterixis
.
DISCHARGE:
VS: 98.9, 124/76, 64, 18, 97% on RA 
General: NAD   
Skin: No rashes, no spider angiomas, no palmar erythema
HEENT: NC/AT, EOMI, sclera anicteric, pale conjunctiva, MMM  
Neck: Supple, nml ROM, no JVD, no LAD
Cardiac: RRR, nml S1/S2, no M/R/G  
Lungs: CTAB 
Abdomen: Soft, NT, ND  
Extremities: WWP, 2+ radial/DP pulses, no edema  
Neuro: A&Ox3, no asterixis    
 
Pertinent Results:
ADMISSION LABS (___):
WBC-6.5 RBC-2.88* Hgb-10.2* Hct-30.7* MCV-107* MCH-35.4* 
MCHC-33.2 RDW-21.0* Plt ___
Neuts-64 Bands-0 ___ Monos-10 Eos-5* Baso-0 Atyps-0 
___ Myelos-0
___ PTT-32.8 ___
Glucose-97 UreaN-42* Creat-0.9 Na-136 K-4.5 Cl-111* HCO3-17* 
AnGap-13
ALT-22 AST-39 AlkPhos-303* TotBili-1.6*
.
URINALYSIS (___): 
Color-Yellow Appear-Clear Sp ___ Blood-NEG Nitrite-NEG 
Protein-30 Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 
Leuks-MOD 
.
DISCHARGE LABS (___):
WBC-6.7 RBC-2.50* Hgb-8.5* Hct-26.2* MCV-105* MCH-34.2* 
MCHC-32.6 RDW-22.9* Plt ___ PTT-33.8 ___
Glucose-86 UreaN-28* Creat-0.8 Na-140 K-4.1 Cl-114* HCO3-20* 
AnGap-10
ALT-19 AST-29 AlkPhos-186* TotBili-1.4
.
MICRO:
Urine Cx (___): Yeast <10,000 organisms/ml 
Blood Cx (___): Negative so far
.
IMAGING:
GI Bleeding study (___): No evidence of active gastrointestinal 
bleed.  
 
Brief Hospital Course:
___ year old man with HCV cirrhosis s/p liver transplant (___) 
with recurrent hep C c/b ascites/encephalopathy/varices/portal 
hypertensive gastropathy/chronic portal and splenic venous 
thrombosis who p/w melanotic stools. Brief hospital course by 
problem:  
. 
# GI bleeding: Pt presented after experiencing several melanotic 
stools. Hct was 30.7, down from 34.9 two days prior. He was 
recently admitted for a GI bleed, however an EGD, colonoscopy, 
RBC scan, angiography, and ex-lap with intra-op endoscopy failed 
to locate the bleeding source. A repeat tagged RBC scan showed 
no evidence of bleeding. He was transfused a total of 5 units of 
PRBCs during this admission, with an appropriate Hct response. 
He will have twice weekly outpatient CBCs, with transfusions as 
needed.   
.
# Hepatitis C s/p liver Tx ___: Pt found to have elevated 
AST and Alk phos which trended down. Otherwise, LFTs were 
stable. Continued lamivudine, tacrolimus, lactulose, rifaximin, 
omeprazole, MVI, thiamine, and folic acid.  
.
# H/o supraventricular tachycardia: The pt was monitored on 
telemetry and was noted to have several bursts of tachycardia to 
the 120s-130s which would last several seconds at a time. The pt 
was asymptomatic other than occasional palpitations. Cardiology 
evaluated the pt and recommended increasing the atenolol from 
25mg QD to 50mg QD. The pt has an outpatient appt with Dr. 
___ on ___. 
. 
# Abdominal wound: The pt was noted to have a small amount of 
serous drainage from his abdominal incision. Surgery evaluated 
the pt and placed a bag over the site. The pt will follow up 
with Dr. ___ on ___. 
.
# Chronic pancreatitis with h/o pancreatic abscess: Continued 
creon and bactrim prophylaxis.  
.
# Diabetes: Stable.  
.
# H/o ITP: Platelets are normal. 
. 
# Depression/anxiety: Stable. Continued sertraline and 
trazodone.  
.
# Code status: Full code.
.
# Outstanding issues:
- Blood cultures from ___ are pending
 
Medications on Admission:
1. Atenolol 25mg QD
2. Ergocalciferol (vit D2) 50,000units every ___
3. Fludrocortisone 0.1 mg po daily
4. Folic Acid 1 mg po daily
5. Lasix 20 mg po daily
6. Lactulose 10 gram/15 mL 30 ML PO daily 
7. Lamivudine 100 mg po daily
8. Latanoprost 0.005 % drops 1 in each eye qhs
9. Lipase-Protease-Amylase 16,000-48,000-48,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap po tid with meals
10. Nystatin 100,000 unit/mL Suspension Sig: five ML po qid PRN 
thrush
11. Omeprazole 40mg delayed release BID 
12. Rifaximin 400 mg po tid
13. Sertraline 50 mg tablet 1.5 tablets daily
14. Spironolactone 25 mg po daily
15. Bactrim 800-160 mg po bid - suppression for pancreatic 
abscess 
16. Tacrolimus 0.5mg capsule bid 
17. Trazodone 50 mg po qhs PRN insomnia
18. Ursodiol 300 mg po bid
19. Calcium citrate-Vitamin D3 315mg-200unit bid
20. Multivitamin po daily
21. Thiamine HCL 100 mg po daily
 
Discharge Medications:
1. Ergocalciferol (Vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO once a week.  
2. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO once a 
day.  
5. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
7. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
8. Rifaximin 200 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
9. Sertraline 50 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
10. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).  
11. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS PRN 
insomnia.  
12. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
13. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  
16. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO once a 
day.  
17. Lipase-Protease-Amylase 16,000-48,000 -48,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Capsule, Delayed 
Release(E.C.) PO TID with meals.  
18. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ml PO four 
times a day as needed for thrush.  
19. Bactrim DS 800-160 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
20. Calcium Citrate-Vitamin D3 315-200 mg-unit Tablet Sig: One 
(1) Tablet PO twice a day.  
21. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
- GI bleed of unknown etiology
- Atrial tachycardia
Secondary diagnosis:
- Hepatitis C s/p liver transplant 
- Chronic pancreatitis  
- History of peripancreatic abscess 
- Steroid induced diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was a pleasure caring for you in the hospital. You came in 
with bloody stools. You had a bleeding scan that did not show a 
source of bleeding. We transfused you with 5 units of blood. You 
will need to get your blood counts checked ___ times per week 
(on ___ and ___, and will be transfused if your blood 
counts are low.
. 
You were evaluated by surgery for your abdominal wound. They are 
recommending a bag over of a dressing over the wound to collect 
any fluid. You will follow up with Dr. ___ in 2 weeks.
. 
You were also evaluated by cardiology for a fast heart rate. 
They increased your atenolol to 50mg daily. They set up an 
appointment to have you evaluated further in clinic. 
.
Please continue to take your home medications. The following 
changes were made to your medications: 
INCREASED Atenolol to 50mg po daily
.
Please see below for information regarding your upcoming 
appointments. 
 
Followup Instructions:
___